US06887874B2
A suspension of 1-acetylpiperazine (3.85 g, 0.03 mol) and 3-bromopropan-1-ol (4 ml) containing potassium carbonate (8.3 g, 60 mmol) in acetonitrile (30 ml) was stirred at 80° C. for 5 hours. The solid was filtered and the filtrate was evaporated. The residue was purified by column chromatography eluting with ethanol/methylene chloride (1/9 followed by 3/7) to give 3-(4-acetylpiperazin-1-yl)propan-1-ol (3.15 g, 56%).

reactant | 1-acetylpiperazine | 0.03 mol, 3.85 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | 3-bromopropan-1-ol | 4 ml | BrCCCO | C3H7BrO
reactant | potassium carbonate | 60 mmol, 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-(4-acetylpiperazin-1-yl)propan-1-ol | 3.15 g, 56% | C(C)(=O)N1CCN(CC1)CCCO | C9H18N2O2
